* psu_pico_rail — Raspberry Pi Pico onboard 3V3(OUT) rail as a bench PSU
*
* Circuit topology:
*   Pico onboard RT6150 regulator (3.3V, modeled with a small output
*   impedance) -> Rload -> GND
*
* Spec target: 3.3V, treat ~100mA as the safe external budget (Pico
* datasheet documents the RT6150 as capable of ~300mA total, but that's
* shared with the Pico's own ~20-30mA logic draw and has not been
* independently verified here with a real load — see README.md).
* Interim PSU while wire strippers are in transit for the AA-holder-based
* psu_ultralow_v1/psu_low_v2 builds (docs/spacetime_circuits_dependency.md,
* psu_pico_rail node).
*
* Output impedance is not in the RP2040/RT6150 datasheet at the precision
* needed here, so it's approximated at 2 ohm (conservative — real
* regulator+trace impedance is typically lower) to show a plausible sag
* trend under load; treat the sag numbers as illustrative; confirm with a
* real Pico + switch_pin_identifier-style ADC probe before relying on
* precise figures.
*
* Load swept from 15 to 100 ohm to stay within the ~100mA conservative
* budget across the sweep (Rload = 33 ohm -> ~100mA design point).

Vreg    1 0 DC 3.3
Rint    1 2 2
Rload   2 0 33

.control
op
print v(2) i(Vreg)

dc Rload 15 100 5
print v(2)
quit
.endc

.end
